US07402608B2
To 3-[(4-Methyl-cyclohexanecarbonyl)-piperidin-4-yl-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester (43 mg, 0.098 mmol) in dichloroethane (1.0 ml) was added benzaldehyde (15 ul, 0.146 mmol), followed by sodium triacetoxyborohydride (41 mg, 0.195 mmol). The reaction mixture was stirred at room temperature for 4 h, quenched with a saturated NaHCO3 solution, and then extracted with Ethyl acetate (3×5 ml). The combined extracts were then washed with brine and dried on Na2SO4, filtered and concentrated. The residue was purified by preparative chromatography (50% EtOAc/Hex) to give 32 mg (61%) of 3-[(1-Benzyl-piperidin-4-yl)-(4-methyl-cyclohexanecarbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester.

reactant | 3-[(4-Methyl-cyclohexanecarbonyl)-piperidin-4-yl-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester | 0.098 mmol, 43 mg | COC(=O)C=1SC(=CC1N(C1CCNCC1)C(=O)C1CCC(CC1)C)C1=CC=CC=C1 | C25H32N2O3S
reactant | benzaldehyde | 0.146 mmol, 15 ul | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium triacetoxyborohydride | 0.195 mmol, 41 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 1.0 ml | ClC(C)Cl | C2H4Cl2
product | 3-[(1-Benzyl-piperidin-4-yl)-(4-methyl-cyclohexanecarbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester | 32 mg, 61% | COC(=O)C=1SC(=CC1N(C(=O)C1CCC(CC1)C)C1CCN(CC1)CC1=CC=CC=C1)C1=CC=CC=C1 | C32H38N2O3S
